US07498440B2
1-{3-[(3-fluorophenyl)oxy]propyl}-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0137 g, 0.0467 mmol) and 3-bromopropyl 3-fluorophenyl ether (0.0137 g, 0.0588 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0130 g, 53.1%). EI-MS m/z 446(M+) Rt (2.03 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.0467 mmol, 0.0137 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 3-bromopropyl 3-fluorophenyl ether | 0.0588 mmol, 0.0137 g | FC=1C=C(C=CC1)OCCCBr | C9H10BrFO
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 1-{3-[(3-fluorophenyl)oxy]propyl}-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.0130 g, 53.1% | [Br-].FC=1C=C(C=CC1)OCCC[N+]12CCC(CC1)(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)O | InChI=1S/C29H33FNO2.BrH/c30-26-13-7-14-27(23-26)33-22-8-18-31-19-15-28(16-20-31,17-21-31)29(32,24-9-3-1-4-10-24)25-11-5-2-6-12-25;/h1-7,9-14,23,32H,8,15-22H2;1H/q+1;/p-1
